US05998433
a) Synthesis of 5-(4-benzoylbenzoyl)-4,5,6,7-tetrahydrofuro[3,2-c]pyridine
To a solution of 0.160 g (1.000 mmol) of 4,5,6,7-tetrahydrofuro[3,2-c]pyridine hydrochloride, 0.27 g (1.2 mmol) of 4-benzoylbenzoic acid and 0.55 ml (4.0 mmol) of triethylamine in 30 ml of dichloromethane, 0.24 g (1.5 mmol) of diethyl cyanophosphonate was added dropwise under ice-cooling, followed by overnight stirring at room temperature. This solution was poured into water and extracted with dichloromethane 2 times. The combined organic layer was washed with water and dried over anhydrous sodium sulfate; the solvent was distilled off under reduced pressure. The resulting crude product was purified by silica gel column chromatography (hexane/ethyl acetate=5/1 to 3/1); the resulting solid was washed with diethyl ether to yield the desired product.

reactant | 4,5,6,7-tetrahydrofuro[3,2-c]pyridine hydrochloride | 1.000 mmol, 0.160 g | Cl.O1C=CC=2CNCCC21
reactant | 4-benzoylbenzoic acid | 1.2 mmol, 0.27 g | C(C1=CC=CC=C1)(=O)C1=CC=C(C(=O)O)C=C1 | C14H10O3
reactant | triethylamine | 4.0 mmol, 0.55 ml | C(C)N(CC)CC | C6H15N
reactant | diethyl cyanophosphonate | 1.5 mmol, 0.24 g | C(#N)P(OCC)(OCC)=O | C5H10NO3P
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 5-(4-benzoylbenzoyl)-4,5,6,7-tetrahydrofuro[3,2-c]pyridine | C(C1=CC=CC=C1)(=O)C1=CC=C(C(=O)N2CC3=C(CC2)OC=C3)C=C1 | C21H17NO3
